US04422866
7.1 g (0.048 mol) of dichloroacetyl chloride were added dropwise to a solution of 10 g (0.048 mol) of 1-(4-nitrophenyl)-piperazine and 5 g (0.495 mol) of triethylamine in 100 ml of toluene at room temperature, while stirring. The mixture was subsequently stirred at 20° C. for 3 hours. Working up was then effected by a procedure in which the reaction mixture was washed twice with 100 ml of water each time and the organic phase was separated off, dried and evaporated under reduced pressure. The residue was recrystallized from toluene. 7 g (46% of theory) of 1-(4-nitrophenyl)-4-dichloroacetyl-piperazine were obtained in the form of light yellow crystals of melting point 155° C.

reactant | dichloroacetyl chloride | 0.048 mol, 7.1 g | ClC(C(=O)Cl)Cl | C2HCl3O
reactant | 1-(4-nitrophenyl)-piperazine | 0.048 mol, 10 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCNCC1 | C10H13N3O2
reactant | triethylamine | 0.495 mol, 5 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(4-nitrophenyl)-4-dichloroacetyl-piperazine | 7 g, 46% | [N+](=O)([O-])C1=CC=C(C=C1)N1CCN(CC1)C(C(Cl)Cl)=O | C12H13Cl2N3O3
